### PR TITLE
Implemented changes to psi.lean file. 

### LINKED ISSUE #73: Proving slash action relations for the $\psi$ functions
The construction of the $-1$-eigenfunction uses important slash action relations obeyed by the $\psi$-functions that follow from corresponding relations on the $H$-functions, which are fourth powers of Jacobi theta functions. These are stated in `SpherePacking.MagicFunction.b.psi`

### PR DESCRIPTION
**Pull request by Strichcoder**
This is about issue #73  [Proving slash action relations for the $\psi$ functions](https://github.com/thefundamentaltheor3m/Sphere-Packing-Lean/issues/73)

Also, the sign typo in the blueprint is fixed, see Zulip thread: [#Sphere packing in 8 dimensions > Typo in Blueprint](https://leanprover.zulipchat.com/#narrow/channel/509682-Sphere-packing-in-8-dimensions/topic/Typo.20in.20Blueprint)

Closes #73

### CODE REVIEW

**Comment by Strichcoder** [comment]
awaiting-review

**Comment by seewoo5** [comment]
Have you checked my recent comment in #113? I think you don't need to make new PR if that guess is correct.

**Comment by Strichcoder** [comment]
yes, I had checked your comment and had tried to do what you said. It did kind of work, but I messed up the merge process.. I would like to just do it cleanly here.

File: SpherePacking/MagicFunction/b/psi.lean [hunk 1]
```diff
@@ -51,66 +51,414 @@ def ψT' (z : ℂ) : ℂ := if hz : 0 < z.im then ψT ⟨z, hz⟩ else 0
...
+
+
+lemma ψS_slash_STS : ψS ∣[-2] (S * T * S) = -ψT := by
+  ext z
+  rw [slash_mul, slash_mul, ψS_slash_S]
+  have def_ψT : ψT = ψI ∣[-2] (T) := rfl
+  rw [← def_ψT, ψT_slash_S]
+
+-- original statement of this lemm contained a sign error:
+-- lemma ψS_slash_TSTS : ψS ∣[-2] (T * S * T * S) = -ψT
```
Comment (seewoo5) [inline SpherePacking/MagicFunction/b/psi.lean]: Could you remove this comment and fix the blueprint instead?

File: SpherePacking/MagicFunction/b/psi.lean [hunk 2]
```diff
@@ -51,66 +51,414 @@ def ψT' (z : ℂ) : ℂ := if hz : 0 < z.im then ψT ⟨z, hz⟩ else 0
...
+    rw [resolve'']
+    exact pow_ne_zero 2 (z_plus_one_nonzero z)
+  -- this is a weird additional goal that got generated at some point..
+  · exact h z
+-- this completes the proof of ψI_eq
+
+-- the following two Lemma statements were wrong in this file at first:
+-- lemma ψS_eq : ψS = 128 * ((H₃_MF + H₄_MF) / (H₂_MF ^ 2) + (H₂_MF + H₃_MF) / H₄_MF ^ 2) := by
+-- lemma ψT_eq : ψT = 128 * ((H₄_MF - H₂_MF) / (H₃_MF ^ 2) - (H₂_MF + H₃_MF) / H₄_MF ^ 2
+--   + (H₂_MF + H₃_MF) / H₄_MF ^ 2) := by
```
Comment (seewoo5) [inline SpherePacking/MagicFunction/b/psi.lean]: Same here

File: SpherePacking/MagicFunction/b/psi.lean [hunk 3]
```diff
@@ -51,66 +51,408 @@ def ψT' (z : ℂ) : ℂ := if hz : 0 < z.im then ψT ⟨z, hz⟩ else 0
...
+private lemma z_plus_one_nonzero (z : ℍ) : (z + 1 : ℂ) ≠ 0 := by
+  have hh : 0 < (z + 1 : ℂ).im  := by
+    calc
+      0 < z.im := z.2
+      _ = (z + 1 : ℂ).im := by simp
+  by_contra hz
+  rw [hz] at hh
+  exact (lt_self_iff_false 0).mp hh
+
+private lemma slashS (z :ℍ) (F : ℍ → ℂ) : (F ∣[(2 : ℤ)] (S)) (z) =
```
Comment (seewoo5) [inline SpherePacking/MagicFunction/b/psi.lean]:
```suggestion
private lemma slashS (z : ℍ) (F : ℍ → ℂ) : (F ∣[(2 : ℤ)] (S)) (z) =
```

File: SpherePacking/MagicFunction/b/psi.lean [hunk 4]
```diff
@@ -51,66 +51,408 @@ def ψT' (z : ℂ) : ℂ := if hz : 0 < z.im then ψT ⟨z, hz⟩ else 0
...
+    SpecialLinearGroup.coe_GL_coe_matrix, SpecialLinearGroup.map_apply_coe,
+    RingHom.mapMatrix_apply, Int.coe_castRingHom, map_apply, of_apply, cons_val', cons_val_zero,
+    cons_val_fin_one, cons_val_one, Int.cast_one, ofReal_one, one_mul, Int.cast_zero,
+    ofReal_zero, add_zero, neg_neg, mul_eq_mul_left_iff]
+  have pow_coe_nat (a : ℂ) : a ^ (2 : ℕ) = a ^ (2 : ℤ) := by
+    rw [zpow_two, pow_two]
+  left
+  rw [pow_coe_nat]
+
+private lemma slashS'' (z : ℍ) (F : ℍ → ℂ): F (S • z) =
```
Comment (seewoo5) [inline SpherePacking/MagicFunction/b/psi.lean]:
```suggestion
private lemma slashS'' (z : ℍ) (F : ℍ → ℂ) : F (S • z) =
```

File: SpherePacking/MagicFunction/b/psi.lean [hunk 5]
```diff
@@ -51,66 +51,408 @@ def ψT' (z : ℂ) : ℂ := if hz : 0 < z.im then ψT ⟨z, hz⟩ else 0
...
+  rw [SL_slash_apply, S_mul_T, denom]
+  simp only [Int.reduceNeg, Fin.isValue, SpecialLinearGroup.coe_GL_coe_matrix,
+    SpecialLinearGroup.map_apply_coe, RingHom.mapMatrix_apply, Int.coe_castRingHom, map_apply,
+    of_apply, cons_val', cons_val_zero, cons_val_fin_one, cons_val_one, Int.cast_one, ofReal_one,
+    one_mul]
+  have pow_coe_nat (a : ℂ) : a ^ (2 : ℕ) = a ^ (2 : ℤ) := by
+    rw [zpow_two, pow_two]
+  rw [pow_coe_nat]
+
+private lemma slashST'' (z : ℍ) (F : ℍ → ℂ): F ((S * T) • z) =
```
Comment (seewoo5) [inline SpherePacking/MagicFunction/b/psi.lean]:
```suggestion
private lemma slashST'' (z : ℍ) (F : ℍ → ℂ) : F ((S * T) • z) =
```

**Review by seewoo5 — COMMENTED** [review]
Some minor lint warnings from [CI](https://github.com/thefundamentaltheor3m/Sphere-Packing-Lean/actions/runs/16916590418/job/47947006520?pr=144)

**Comment by Strichcoder** [comment]
Thanks, I implemented the suggestions (and cleaned up the comments a bit more) Then when I wanted to `git push origin branch-psi`, it did not work, so I did `git push origin branch-psi --force`, and it says I changed a whole bunch of files! This was probably bad? Is it possible to revert this? Should I revert it?

**Comment by seewoo5** [comment]
@Strichcoder Yes you can update.

File: SpherePacking/MagicFunction/b/psi.lean [hunk 6]
```diff
@@ -51,71 +51,406 @@ def ψT' (z : ℂ) : ℂ := if hz : 0 < z.im then ψT ⟨z, hz⟩ else 0
...
+  rw [pow_coe_nat]
+
+private lemma slashST'' (z : ℍ) (F : ℍ → ℂ) : F ((S * T) • z) =
+    (F ∣[(2 : ℤ)] (S * T)) (z) * (z + 1 : ℂ) ^ 2 := by
+  rw [slashST, mul_assoc]
+  simp only [sl_moeb, map_mul, Int.reduceNeg, zpow_neg]
+  have inv_mul_cancel (a : ℂ) (nonzero : a ≠ 0) : a⁻¹ * a = (1 : ℂ) := by
+    rw [mul_comm]
+    apply Complex.mul_inv_cancel
+    exact nonzero
```
Comment (thefundamentaltheor3m) [inline SpherePacking/MagicFunction/b/psi.lean]:
```suggestion
    exact Complex.mul_inv_cancel nonzero
```

File: SpherePacking/MagicFunction/b/psi.lean [hunk 7]
```diff
@@ -51,71 +51,406 @@ def ψT' (z : ℂ) : ℂ := if hz : 0 < z.im then ψT ⟨z, hz⟩ else 0
...
+private lemma slashST' (z : ℍ) (F : ℍ → ℂ) : ((F) ∣[(-2 : ℤ)] (S * T)) (z) =
+    F ((S * T) • z ) * (z + 1 : ℂ) ^ (2 : ℕ) := by
+  rw [SL_slash_apply, S_mul_T, denom]
+  simp only [Int.reduceNeg, Fin.isValue, SpecialLinearGroup.coe_GL_coe_matrix,
+    SpecialLinearGroup.map_apply_coe, RingHom.mapMatrix_apply, Int.coe_castRingHom, map_apply,
+    of_apply, cons_val', cons_val_zero, cons_val_fin_one, cons_val_one, Int.cast_one, ofReal_one,
+    one_mul]
+  have pow_coe_nat (a : ℂ) : a ^ (2 : ℕ) = a ^ (2 : ℤ) := by
+    rw [zpow_two, pow_two]
+  rw [pow_coe_nat]
```
Comment (thefundamentaltheor3m) [inline SpherePacking/MagicFunction/b/psi.lean]: Maybe it's slightly clearer what's going on here if we keep the `have`, but I think it would be better to remove the `have` and just have the `rw` statements that are inside it.
```suggestion
  rw [zpow_two, pow_two]
```

File: SpherePacking/MagicFunction/b/psi.lean [hunk 8]
```diff
@@ -51,71 +51,406 @@ def ψT' (z : ℂ) : ℂ := if hz : 0 < z.im then ψT ⟨z, hz⟩ else 0
...
+private lemma slashT' (z : ℍ) (F : ℍ → ℂ) : ((F) ∣[(-2 : ℤ)] (T)) (z) =  (F) (T • z) := by
+  rw [SL_slash_apply, T, denom]
+  simp
+ -- no need for slashT'', as ← slashT already fulfils that role
+
+private lemma S_mul_T : S * T = ⟨!![0, -1; 1, 1], by norm_num [det_fin_two_of]⟩ := by
+  ext (i : Fin 2) (j : Fin 2)
+  fin_cases i; fin_cases j <;>
+  · simp [mul_apply, S, T]
+  · simp [mul_apply, S, T]
```
Comment (thefundamentaltheor3m) [inline SpherePacking/MagicFunction/b/psi.lean]: This does it in one line:

```suggestion
  fin_cases i <;> fin_cases j <;> simp [mul_apply, S, T]
```

File: SpherePacking/MagicFunction/b/psi.lean [hunk 9]
```diff
@@ -51,71 +51,406 @@ def ψT' (z : ℂ) : ℂ := if hz : 0 < z.im then ψT ⟨z, hz⟩ else 0
...
+    have resolve' : - (a4 * d) + a2 * d = - (a4 - a2) * d := by
+      simp only [neg_sub]
+      rw [@neg_add_eq_sub, @mul_sub_right_distrib]
+    rw [resolve', mul_comm, ← mul_neg, ← mul_neg, neg_mul_eq_neg_mul, neg_neg]
+    field_simp only [div_eq_mul_inv, mul_comm, sub_eq_add_neg, sub_eq_iff_eq_add]
+    simp only [mul_eq_mul_left_iff]
+    rw [mul_assoc]
+    left
+    simp only
+  rw [resolve]
```
Comment (thefundamentaltheor3m) [inline SpherePacking/MagicFunction/b/psi.lean]: This proof seems to be getting messy at this point. I think the way to avoid the double goal creation (and possibly also fix/make it easier to fix the non-terminal `field_simp`) would be to fix the `resolve` lemma---unless I'm mistaken, it doesn't quite correspond to the goal. Maybe it would help to use `extract_goal` to get exactly the goal you're looking for, find a proof for it, and then apply that here.

File: SpherePacking/MagicFunction/b/psi.lean [hunk 10]
```diff
@@ -51,71 +51,406 @@ def ψT' (z : ℂ) : ℂ := if hz : 0 < z.im then ψT ⟨z, hz⟩ else 0
...
+    exact Eq.symm (Complex.ext (congrArg Complex.re (slashT z ⇑H₄_MF))
+        (congrArg Complex.im (slashT z ⇑H₄_MF)))
+  rw [H2slashT', H3slashT', H4slashT']
+  have hh2 : (H₂_MF : ℍ → ℂ) = H₂ := by exact rfl
+  have hh3 : (H₃_MF : ℍ → ℂ) = H₃ := by exact rfl
+  have hh4 : (H₄_MF : ℍ → ℂ) = H₄ := by exact rfl
+  rw [hh2, hh3, hh4, H₂_T_action, H₃_T_action, H₄_T_action]
+  field_simp -- if I replace this with the result of simp? the proof breaks
+  rw [← mul_div_assoc', ← mul_div_assoc', ←  mul_add, add_comm (H₄ z) (H₃ z),
+    add_comm (H₃ z) (H₂ z) ]
```
Comment (thefundamentaltheor3m) [inline SpherePacking/MagicFunction/b/psi.lean]:
```suggestion
  field_simp [← mul_div_assoc', ← mul_add, add_comm (H₄ z) (H₃ z), add_comm (H₃ z) (H₂ z)]
```

File: SpherePacking/MagicFunction/b/psi.lean [hunk 11]
```diff
@@ -51,71 +51,406 @@ def ψT' (z : ℂ) : ℂ := if hz : 0 < z.im then ψT ⟨z, hz⟩ else 0
...
+  field_simp -- if I replace this with the result of simp? the proof breaks
+  have resolve (h2 h3 h4 d : ℂ) (dnonzero : d ≠ 0) :
+    128 * ( - (h3 * d) + - (h2 * d)) / (h4 * d) ^ 2 = - (128 * ((h2 + h3) / (h4) ^ 2 )) / d := by
+    have resolve' : -(h3 * d) + -(h2 * d) = - ((h2 + h3) * d) := by
+      rw [← @neg_add, @right_distrib, add_comm]
+    rw [resolve', mul_neg, ← neg_div', pow_two, ← mul_assoc 128 _ _, mul_comm h4 d,
+      mul_assoc d h4 (d * h4), ← div_div, ← mul_div_assoc', div_self, mul_one,
+      mul_comm d h4, ← mul_assoc h4 h4 d, ← div_div, mul_div_assoc, ← pow_two, neg_div']
+    exact dnonzero
+  rw [resolve]
```
Comment (thefundamentaltheor3m) [inline SpherePacking/MagicFunction/b/psi.lean]: Again, I think there's something not quite right with `resolve` here. My suggestion is to either use `extract_goal` and prove exactly the goal you need in a separate (private) lemma or to introduce a `calc` block. I'd have a preference for the former because that would make it easier to deal with the non-terminal `field_simp`.
(Basically, I want to end this proof with a `rw [resolve]` for now, and then worry about how to incorporate `resolve` into `field_simp` by doing `field_simp [resolve]` or something)

File: SpherePacking/MagicFunction/b/psi.lean [hunk 12]
```diff
@@ -51,71 +51,406 @@ def ψT' (z : ℂ) : ℂ := if hz : 0 < z.im then ψT ⟨z, hz⟩ else 0
...
+  simp only [Pi.mul_apply, Pi.ofNat_apply, Pi.add_apply, Pi.div_apply,
+    Pi.pow_apply, Pi.smul_apply, Pi.sub_apply, smul_add, nsmul_eq_mul, Nat.cast_ofNat]
+  rw [← slashT z ⇑H₂_MF, ← slashT z ⇑H₃_MF, ← slashT z ⇑H₄_MF]
+  have hh2 : (H₂_MF : ℍ → ℂ) = H₂ := by exact rfl
+  have hh3 : (H₃_MF : ℍ → ℂ) = H₃ := by exact rfl
+  have hh4 : (H₄_MF : ℍ → ℂ) = H₄ := by exact rfl
+  rw [hh2, hh3, hh4, H₂_T_action, H₃_T_action, H₄_T_action]
+  field_simp -- if I replace this by the result of simp?, the proof no longer works.
+  rw [← mul_div_assoc', ← mul_div_assoc', ← mul_add, add_comm (H₄ z) (H₃ z),
+    add_comm  (- (H₂ z)) (H₄ z), Mathlib.Tactic.RingNF.add_neg]
```
Comment (thefundamentaltheor3m) [inline SpherePacking/MagicFunction/b/psi.lean]: You can merge these two lines either by incorporating things in the second line into the first, as I have done below, or by doing `field_simp` followed by `ring_nf`. Both of these would be acceptable.

A small remark: lemmas like `Mathlib.Tactic.RingNF.add_neg` should not be referenced explicitly---not here or anywhere else. These are lemmas that are specifically meant to be used by the `ring_nf` tactic. In fact, if you go to its proof, you will find that it is really just `sub_eq_add_neg`.

```suggestion
  field_simp [← mul_div_assoc', ← mul_add, add_comm (H₄ z) (H₃ z), add_comm  (- (H₂ z)) (H₄ z),
    sub_eq_add_neg]
```

File: SpherePacking/MagicFunction/b/psi.lean [hunk 13]
```diff
@@ -51,71 +51,406 @@ def ψT' (z : ℂ) : ℂ := if hz : 0 < z.im then ψT ⟨z, hz⟩ else 0
...
+  have hh4 : (H₄_MF : ℍ → ℂ) = H₄ := by exact rfl
+  rw [hh2 , hh3, hh4, H₂_S_action, H₃_S_action, H₄_S_action]
+  simp only [Pi.neg_apply, neg_mul, sub_neg_eq_add, even_two, Even.neg_pow]
+  have resolve (h2 h3 h4 d : ℂ) (d_nonzero : d ≠ 0) : (- (h2 * d) + h4 * d) / (h3 * d) ^ 2 =
+      (h4 - h2) / (h3 ^ 2) / d := by
+    rw [← neg_mul, add_comm, ← right_distrib, ← sub_eq_add_neg, pow_two,
+      mul_comm h3 d, mul_assoc d h3 (d * h3), ← div_div, ← mul_div_assoc',
+      div_self, mul_one, mul_comm d h3, ← mul_assoc, ←  div_div, ← pow_two]
+    exact d_nonzero
+  rw [resolve]
```
Comment (thefundamentaltheor3m) [inline SpherePacking/MagicFunction/b/psi.lean]: Same problem with `resolve`

File: SpherePacking/MagicFunction/b/psi.lean [hunk 14]
```diff
@@ -51,71 +51,406 @@ def ψT' (z : ℂ) : ℂ := if hz : 0 < z.im then ψT ⟨z, hz⟩ else 0
...
+  rw [hh2 , hh3, hh4, slash_mul, slash_mul, slash_mul, H₂_S_action, H₃_S_action, H₄_S_action,
+    SlashAction.neg_slash, SlashAction.neg_slash, SlashAction.neg_slash,
+    H₂_T_action, H₃_T_action, H₄_T_action]
+  simp only [Pi.neg_apply, neg_neg, neg_mul, sub_neg_eq_add, even_two, Even.neg_pow]
+  have resolve (h2 h3 h4 d : ℂ) (d_nonzero : d ≠ 0) : ((h2 * d) + h3 * d) / (h4 * d) ^ 2 =
+      (h2 + h3) / (h4 ^ 2) / d := by
+    rw [← right_distrib, pow_two, mul_comm h4 d, mul_assoc d h4 (d * h4), ← div_div,
+       ← mul_div_assoc', div_self, mul_one, mul_comm d h4, ← mul_assoc,←  div_div, ← pow_two ]
+    exact d_nonzero
+  rw [resolve]
```
Comment (thefundamentaltheor3m) [inline SpherePacking/MagicFunction/b/psi.lean]: Again

File: SpherePacking/MagicFunction/b/psi.lean [hunk 15]
```diff
@@ -51,71 +51,406 @@ def ψT' (z : ℂ) : ℂ := if hz : 0 < z.im then ψT ⟨z, hz⟩ else 0
...
+  have hh4 : (H₄_MF : ℍ → ℂ) = H₄ := by exact rfl
+  rw [hh2 , hh3, hh4, H₂_S_action, H₃_S_action, H₄_S_action]
+  simp only [Pi.neg_apply, neg_mul, even_two, Even.neg_pow]
+  have resolve (h2 h3 h4 d : ℂ) (d_nonzero : d ≠ 0) : (- (h4 * d) + - (h3 * d)) / (h2 * d) ^ 2 =
+      - ((h4 + h3) / (h2 ^ 2) / d ) := by
+    rw [← neg_add, ← neg_div', ← right_distrib, pow_two, mul_comm h2 d,
+      mul_assoc d h2 (d * h2), ← div_div, ← mul_div_assoc', div_self]
+    · rw [mul_one, mul_comm d h2, ← mul_assoc, ← div_div, ← pow_two]
+    · exact d_nonzero
+  rw [resolve]
```
Comment (thefundamentaltheor3m) [inline SpherePacking/MagicFunction/b/psi.lean]: Again, need to fix `resolve`

File: blueprint/src/subsections/construct-a-b.tex [hunk 16]
```diff
@@ -339,7 +339,7 @@
 \begin{align}
     \psi_I(z) &= 128 \frac{H_3(z) + H_4(z)}{H_2(z)^2} + 128 \frac{H_4(z) - H_2(z)}{H_3(z)^2} \label{eqn:psiI-explicit} \\
     \psi_T(z) &= 128 \frac{H_3(z) + H_4(z)}{H_2(z)^2} + 128 \frac{H_2(z) + H_3(z)}{H_4(z)^2} \label{eqn:psiT-explicit} \\
-    \psi_S(z) &= 128 \frac{H_2(z) + H_3(z)}{H_4(z)^2} - 128 \frac{H_2(z) - H_4(z)}{H_3(z)^2} \label{eqn:psiS-explicit}
+    \psi_S(z) &= -128 \frac{H_2(z) + H_3(z)}{H_4(z)^2} - 128 \frac{H_2(z) - H_4(z)}{H_3(z)^2} \label{eqn:psiS-explicit}
```
Comment (thefundamentaltheor3m) [inline blueprint/src/subsections/construct-a-b.tex:342]: Good catch! I noticed something like this at some point when working on my thesis, but forgot to update the blueprint. Thank you for doing this!

Comment (seewoo5) [reply blueprint/src/subsections/construct-a-b.tex:342]: Just in case, I also added zulip link in the comment above.

File: SpherePacking/MagicFunction/b/psi.lean (hunk 9 above)
Comment (Strichcoder) [reply SpherePacking/MagicFunction/b/psi.lean]: I rewrote this part of the proof. It now does not rely on field_simp anymore and the structure is just generally nicer.

File: SpherePacking/MagicFunction/b/psi.lean (hunk 11 above)
Comment (Strichcoder) [reply SpherePacking/MagicFunction/b/psi.lean]: ok, again, I rewrote the proof so that field_simp is not used.

File: SpherePacking/MagicFunction/b/psi.lean (hunk 13 above)
Comment (Strichcoder) [reply SpherePacking/MagicFunction/b/psi.lean]: Created a cleaner proof here too.

File: SpherePacking/MagicFunction/b/psi.lean (hunk 14 above)
Comment (Strichcoder) [reply SpherePacking/MagicFunction/b/psi.lean]: Again, I rewrote proof

File: SpherePacking/MagicFunction/b/psi.lean (hunk 15 above)
Comment (Strichcoder) [reply SpherePacking/MagicFunction/b/psi.lean]: one more simiplification

**Comment by Strichcoder** [comment]
awaiting-review

**Review by thefundamentaltheor3m — APPROVED** [review]

**Comment by thefundamentaltheor3m** [comment]
Looks great! I agree that it might be possible to golf proofs, but this is not as important as making sure that there are no non-terminal `simp`s, etc. Thank you very much @Strichcoder and @seewoo5!
